2125-12-31 07:35:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2125-12-30**] 07:45 AM
   Metronidazole - [**2125-12-30**] 02:00 PM
   Infusions:
   Heparin Sodium - 1,800 units/hour
   Other ICU medications:
   Omeprazole (Prilosec) - [**2125-12-30**] 07:45 AM
   Furosemide (Lasix) - [**2125-12-30**] 09:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-12-31**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37
C (98.6
   HR: 64 (48 - 68) bpm
   BP: 130/39(63) {89/33(51) - 136/108(114)} mmHg
   RR: 16 (11 - 19) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,672 mL
                                                                    744 mL
   PO:
                                                                    840 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    832 mL
                                                                    264 mL
   Blood products:
   Total out:
                                                                  2,745 mL
                                                                    980 mL
   Urine:
                                                                  2,745 mL
                                                                    980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,073 mL
                                                                   -236 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 93%
   ABG: ///35/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases/ bl) with diffuse
   wheeze. Diminshed BS at the bases b/l
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right:2+, Left: marked edema on the left with a patch of
   erythema on the lateral aspect of the left calf
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   9.8 g/dL
   265 K/uL
   122 mg/dL
   0.9 mg/dL
   35 mEq/L
   4.0 mEq/L
   24 mg/dL
   97 mEq/L
   140 mEq/L
   30.0 %
   9.5 K/uL
        [image002.jpg]
                            [**2125-12-30**]  04:27 AM
                            [**2125-12-30**]  11:14 AM
                            [**2125-12-31**]  05:20 AM
   WBC
   8.6
   9.5
   Hct
   29.3
   30.0
   Plt
   246
   265
   Cr
   0.9
   0.9
   TropT
   2.89
   2.99
   2.61
   Glucose
   97
   122
   Other labs: PT / PTT / INR:13.8/60.0/1.2, CK / CKMB /
   Troponin-T:394/4/2.61, ALT / AST:[**12-30**], Alk Phos / T Bili:64/0.3,
   Lactic Acid:0.9 mmol/L, Albumin:2.9 g/dL, LDH:246 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   CXR [**12-31**]: increasing left sided effusion vs atlectasis
   ECG: [**12-30**] (compared to prev datng back to [**12-26**]): LAFB, sinus, ST
   depression <1mm in I and avL (unchanged)
   Assessment and Plan
   85 yo female with hx of CAD (with NSTEMI post ERCP), COPD on home O2,
   apspiration PNA who was recently discharged home and is now re-admitted
   with increasing hypoxemia in the setting of hyptertension at home now
   with new NSTEMI
   > Hypoxemia: likely CHF/CAD in setting of severe HTN (syst dysfunction
   elevated BNP); in addition may have PNA (dry cough, fever) and
   component of chronic COPD. Finally she has what looks like an increase
   in left sided effusion (although on the abdominal cuts of a previous CT
   there was no effusion). Will obtain a Chest CT today, will use theTTE
   to help guide whether it should be PE protocol, if there are signs of
   RV impairment then will pursue PE-CT
   -Continue diuresis (TBB goal even to net neg 500 cc)
   - Brief course of PO prednisone 40 mg PO x 5 days Day 1 = [**12-31**].
   - CT scan
   -Repeat ECHO  [**12-31**] given concern for evolving infarct
   -bronchodilators
   -Levoflox/Flagyl continued post ERCP x 7 day course, will await the
   results of CT scan to decide on whether we need to cont course for
   aspiration.
   > NSTEMI: likely demand ischemia, but she clearly has CAD with a new
   troponin rise on this admission concerning for a second  NSTEMI again
   in the setting of demand. Appreciate cardiology input. She may go to
   the cath lab for re-vascularization.
   -Continue ASA, plavix, heparin, ACE-I,  statin, BB for HR 50-60.
   Notably no previous coronary cath.
   - repeat TTE
   > Fever: PNA?, LLE cellulitis?, viral infection?, U/A is normal,
   LFT/Lip normal. She has remained Afebrile since her admission.
   -Continue levaquin/flagyl as above
   -Vanco for ? cellulitis
   -Follow up clx data.
    .> Lower ext swelling: appears to be consistent with cellulitis.There
   is no evidence of DVT on LENI.
   - cont vanco for cellulitis
   Other issues per ICU resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-12-30**] 12:16 AM
   20 Gauge - [**2125-12-30**] 12:16 AM
   Prophylaxis:
   DVT: Hep gtt
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: FUll
   Disposition :ICU
   Total time spent: 35

2125-12-31 07:56:00 Physician Resident Progress Note
Chief Complaint: dyspnea
   24 Hour Events:
   - Cards consult for NSTEMI.  Plans for cath in 2 days if able to lay
   flat.
   - LENIs performed and showed no DVT
   - given lasix IV 20 x 1; diuresed - 1.1 L.  Got second dose of lasix at
   midnight.
   - Cardiac enzymes still trending up
   - heparin drip increased x 3 for subtherapeutic PTT
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2125-12-30**] 07:45 AM
   Metronidazole - [**2125-12-30**] 02:00 PM
   Infusions:
   Heparin Sodium - 1,800 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2125-12-30**] 09:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-12-31**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37
C (98.6
   HR: 64 (48 - 68) bpm
   BP: 130/39(63) {89/33(51) - 136/108(114)} mmHg
   RR: 16 (11 - 19) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,672 mL
                                                                    756 mL
   PO:
                                                                    840 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    832 mL
                                                                    276 mL
   Blood products:
   Total out:
                                                                  2,745 mL
                                                                    980 mL
   Urine:
                                                                  2,745 mL
                                                                    980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,073 mL
                                                                   -224 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 93%
   ABG: ///35/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   265 K/uL
   9.8 g/dL
   122 mg/dL
   0.9 mg/dL
   35 mEq/L
   4.0 mEq/L
   24 mg/dL
   97 mEq/L
   140 mEq/L
   30.0 %
   9.5 K/uL
        [image002.jpg]
                            [**2125-12-30**]  04:27 AM
                            [**2125-12-30**]  11:14 AM
                            [**2125-12-31**]  05:20 AM
   WBC
   8.6
   9.5
   Hct
   29.3
   30.0
   Plt
   246
   265
   Cr
   0.9
   0.9
   TropT
   2.89
   2.99
   2.61
   Glucose
   97
   122
   Other labs: PT / PTT / INR:13.8/60.0/1.2, CK / CKMB /
   Troponin-T:394/4/2.61, ALT / AST:[**12-30**], Alk Phos / T Bili:64/0.3,
   Lactic Acid:0.9 mmol/L, Albumin:2.9 g/dL, LDH:246 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   85 F with COPD on home O2, recent admission to hospital for post-ERCP
   hypoxia thought related to NSTEMI and aspiration pneumonia, now
   admitted with worsening dyspnea, elevated troponin, and pulmonary
   edema.
   # Hypoxemia.  Desat during past admission as per HPI thought due to
   pneumonia, NSTEMI, heart failure.  Now returns with worsening of
   dyspnea and increased O2 requirement.  Occurred suddenly.  Differential
   includes ACS, worsening or new pneumonia, volume overload, PE, COPD
   flare.  New infarct less likely in absence of chest pain, ECG changes,
   and very low CK (though troponin has increased).  Does have pulm edema
   on CXR and exam - due to acute cardiac ischemia vs. other cause for
   volume overload.  PE also needs to be considered, in light of recent
   procedure/hospitalization and conjugated estrogen use.
   - ACS meds: heparin gtt, continue BB, [**Month/Year (2) 1167**], [**Month/Year (2) 68**].  Increase statin to
   80 mg daily.
   - cycle enzymes.
   - given above history, will likely need further eval for PE.  Will
   check Ddimer; if negative (though seems unlikely to be) will be
   comfortable with negative eval; if positive would probably pursue VQ
   scan vs. CTA vs. TTE.  On heparin gtt tonight in any case.  Hold
   estrogen for short and probably long term.
   - Serial ECGs.
   - For volume overload component; will need further diuresis - 40 IV
   lasix tonight and monitor I/O.
   # NSTEMI.  With worsening troponin as above.
   - Cards aware; consult in AM.
   - Heparin gtt, BB, [**Last Name (LF) 1167**], [**First Name3 (LF) 68**], statin as above.
   .
   # Congestive heart failure, acute on chronic.  Recent echo with EF
   40-45% and focal HK, likely CAD/infarct related.  BNP elevated (no
   priors) and CXR with edema and effusion.
   - 40 IV lasix tonight; goal 1-2 L negative over next 24 hours.
   - continue BB and ACEI.
   .
   # Aspiration pneumonia.  Discharged on levo/flagyl with concern for
   aspiration on past imaging.  Passed speech and swallow last admission.
   Fever at OSH to 102.7.
   - Continue levoflox/flagyl, continue vanco (started in ED).
   - management of possible effusion below.
   .
   # Fever. To 102.7 in ED.  Recent ERCP though abdomen benign.  ALso
   treated for aspiration pneumonia.
   - check blood cultures, urine culture.
   - c.diff given diarrhea (though on flagyl).
   - sputum if able
   - check LFTs and lipase.
   - antibiotics as above - levo flagyl, vanco
   .
   # Pleural effusion: L side with moderate effusion, with ?of underlying
   consolidation/aspiration - ?parapneumonic effusion.  However, less
   impressive on CT from [**12-28**] compared with CXR.
   - diuresis tonight.
   - will discuss thoracentesis tonight or in AM (if large enough
 u/s
   vs. lateral decub film).
   .
   # COPD.  On home O2.
   - continue home regimen: A/A MDI, fluticasone MDI.
   - No need for systemic steroids currently.
   .
   # Diarrhea.  Patient believes due to stool softeners during admit and
   at home.  one episode today prior to admit.
   - hold bowel regimen
   - send c.diff (though on flagyl).
   .
   # Neuropathy.  Unclear etiology.
   - gapapentin as per home regimen.
   - oxycodone prn
   ICU Care
   Nutrition:
   Comments: regular, NPO p MN for cath
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-12-30**] 12:16 AM
   20 Gauge - [**2125-12-30**] 12:16 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU